US07470679B2
2-(R)-Benzyloxycarbonylamino-3-(7-chloro-4-chloromethyl-1H-indazol-5-yl)-propionic acid methyl ester
Thionyl chloride (2mL) was added to a solution of 2-(R)-benzyloxycarbonylamino-3-(7-chloro-4-hydroxymethyl-1H-indazol-5-yl)-propionic acid methyl ester (245 mg, 0.59 mmol) in dichloromethane (3 mL). Mixture was stirred at room temperature for 1.5 hours. Mixture was concentrated. Residue was dissolved in dichloromethane (15 mL) then washed with saturated aqueous sodium bicarbonate (2×10 mL). Organic was dried (magnesium sulfate), filtered and concentrated. Title compound was obtained as an orange solid in 86% yield. Material was carried forward without further purification. 1H NMR (300 MHz, CDCl3): δ=8.19 (s, 1H), 7.32 (m, 5H), 7.16 (s, 1H), 5.49 (d, J=7.3, 2H), 5.07 (d, J=4.4, 2H), 4.85 (s, 2H), 4.68 (d, J=7.0, 1H), 3.72 (s, 3H), 3.27 (m, 2H). MS m/e (M+H)+=436.1.

reactant | Thionyl chloride | 2mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(R)-benzyloxycarbonylamino-3-(7-chloro-4-hydroxymethyl-1H-indazol-5-yl)-propionic acid methyl ester | 0.59 mmol, 245 mg | COC([C@@H](CC=1C(=C2C=NNC2=C(C1)Cl)CO)NC(=O)OCC1=CC=CC=C1)=O | C20H20ClN3O5
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 2-(R)-Benzyloxycarbonylamino-3-(7-chloro-4-chloromethyl-1H-indazol-5-yl)-propionic acid methyl ester | 86% yield | COC([C@@H](CC=1C(=C2C=NNC2=C(C1)Cl)CCl)NC(=O)OCC1=CC=CC=C1)=O | C20H19Cl2N3O4
